US03950353
N-Methyl-N'-[2-(3-pyridazinylmethylthio)ethyl]urea
By the procedure of Example 24, 3-[(2-aminoethyl)thiomethyl]pyridazine is reacted with methyl isocyanate to give the title compound.

reactant | 3-[(2-aminoethyl)thiomethyl]pyridazine | NCCSCC=1N=NC=CC1 | C7H11N3S
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | N-Methyl-N'-[2-(3-pyridazinylmethylthio)ethyl]urea | CNC(=O)NCCSCC=1N=NC=CC1 | C9H14N4OS
